US06028074
(b) 6-Chloro-3-methylpyrimidine-2,4[1H,3H]-dione
1-Methylbarbituric acid (10 g) was suspended in phosphorus oxychloride (70 ml). Water (2 ml) was added and the mixture was heated at reflux for 40 minutes. The reaction was allowed to cool and was then concentrated under reduced pressure. The residue was poured onto a mixture of ice and water (200 ml). When the ice had melted, the precipitated solid was collected, washed with water and dried in vacuo at 50° C. to give the sub-title compound (6.86 g) as a yellow solid.

reactant | 1-Methylbarbituric acid | 10 g | CN1C(=O)NC(=O)CC1=O | C5H6N2O3
reactant | Water | 2 ml | O | H2O
reactant | phosphorus oxychloride | 70 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
product | 6-Chloro-3-methylpyrimidine-2,4[1H,3H]-dione | 6.86 g | ClC1=CC(N(C(N1)=O)C)=O | C5H5ClN2O2
